US05965560
Step A: Preparation of [4-(2-chloro-3-methylphenyl)-piperazine-1-yl]-(3,4,5-trimethoxyphenyl)methanone
3,4,5-Trimethoxybenzoyl chloride (2.03 g, 8.8 mmol) in dichloromethane (10 mL) is added dropwise to a solution of 2-chloro-3-methylphenyl piperazine (1.98 g, 8.0 mmol) and triethylamine (4.5 mL, 32.0 mmol) in dichloromethane (90 mL) and stirred for 2 hours at room temperature. The reaction mixture is washed with water, dried (magnesium sulfate), and concentrated in vacuo. The resulting solid is purified by medium pressure liquid chromatography (MPLC) on silica gel eluting with 40% ethyl acetate/hexane to give 2.52 g of the title compound as a white solid; mp 156-159° C.

reactant | 3,4,5-Trimethoxybenzoyl chloride | 8.8 mmol, 2.03 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 2-chloro-3-methylphenyl piperazine | 8.0 mmol, 1.98 g | ClC1=C(C=CC=C1C)N1CCNCC1 | C11H15ClN2
reactant | triethylamine | 32.0 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | [4-(2-chloro-3-methylphenyl)-piperazine-1-yl]-(3,4,5-trimethoxyphenyl)methanone | 2.52 g | ClC1=C(C=CC=C1C)N1CCN(CC1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H25ClN2O4
